* source VCF
V_V4         VCC 0 5Vdc
R_R15         N06499 N06395  1meg TC=0,0 
R_R18         0 OUTPUTVCF  10meg TC=0,0 
R_R13         N06339 N06345  10k TC=0,0 
C_C7         INPUT N06499  4.7u  TC=0,0 
R_R17         VCC N06669  100k TC=0,0 
X_R_RES         N06157 N06157 N06231 POT PARAMS: SET={Res} VALUE=10K
C_C6         N06395 N06219  10n  TC=0,0 
C_C5         N06219 N06231  10n  TC=0,0 
Q_Q2         N06219 N06345 0 BC547B 
C_C8         N06157 OUTPUTVCF  4.7u  TC=0,0 
R_R14         N06395 N06157  470k TC=0,0 
R_R16         0 N06499  100k TC=0,0 
R_R19         0 N06669  100k TC=0,0 
X_U3         N06669 N06395 VCC 0 N06157 MCP6001
X_R_CUT         0 N06339 VCC POT PARAMS: SET={Freq} VALUE=10K
R_R20         DAC_OUT N06345  10k TC=0,0 
V_V6         DAC_OUT 0 0
X_U4         N10926 N11078 VCC 0 OUTPUT MCP6001
R_R22         0 N10926  100k TC=0,0 
R_R21         VCC N10926  100k TC=0,0 
R_R23         N11078 OUTPUT  10k TC=0,0 
R_R24         OUTPUTVCF N11078  4.7k TC=0,0 
V_V8         INPUT 0  AC 1
+SIN 1.65 1.65 3k 0 0 0
.PARAM  res=.1 k=0 freq=.1
